US08633237B2
2,2,2-trifluoro-N-(5-(3-(hydroxymethyl)-5-(trifluoromethyl)benzyl)-2,3-dihydro-1H-inden-1-yl)acetamide
Pentafluorophenyl trifluoroacetate (28 mg, 0.1 mmol) was added to a solution of (3-((1-amino-2,3-dihydro-1H-inden-5-yl)methyl)-5-(trifluoromethyl)phenyl)methanol (30 mg, 0.093 mmol) and triethylamine (26 μL, 0.187) in DCM (1 mL). The reaction was stirred at rt for 24 h before aq. sat. NaHCO3 (2 mL) was added to the mixture and the whole was filtered over a phase separator. The organic filtrate was evaporated to dryness in a Genevac. The crude material was purified by prep. LCMS to afford LEBE27-031-2 the title compound (10.3 mg, 27.7%). MS (ESI): m/z [M−H]− 416.0

reactant | Pentafluorophenyl trifluoroacetate | 0.1 mmol, 28 mg | FC(C(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)(F)F | C8F8O2
reactant | (3-((1-amino-2,3-dihydro-1H-inden-5-yl)methyl)-5-(trifluoromethyl)phenyl)methanol | 0.093 mmol, 30 mg | NC1CCC2=CC(=CC=C12)CC=1C=C(C=C(C1)C(F)(F)F)CO | C18H18F3NO
reactant | triethylamine | 26 μL | C(C)N(CC)CC | C6H15N
reactant | NaHCO3 | 2 mL | C(=O)(O)[O-].[Na+]
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 2,2,2-trifluoro-N-(5-(3-(hydroxymethyl)-5-(trifluoromethyl)benzyl)-2,3-dihydro-1H-inden-1-yl)acetamide | 10.3 mg, 27.7% | FC(C(=O)NC1CCC2=CC(=CC=C12)CC1=CC(=CC(=C1)C(F)(F)F)CO)(F)F | C20H17F6NO2
